US08492378B2
N′-acetyl-3-(4-methoxyphenyl)-1-benzofuran-5-carbohydrazide
To a solution of 3-(4-methoxyphenyl)-1-benzofuran-5-carbohydrazide (565 mg, 2.00 mmol) and triethylamine (0.418 mL, 3.00 mmol) in tetrahydrofuran (30 mL) was added acetyl chloride (0.213 mL, 3.00 mmol) at room temperature, and the resulting mixture was stirred for 30 min. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was washed with hexane/ethyl acetate (1/1) to give the title compound (613 mg, yield 94%) as colorless crystals.

reactant | 3-(4-methoxyphenyl)-1-benzofuran-5-carbohydrazide | 2.00 mmol, 565 mg | COC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C(=O)NN | C16H14N2O3
reactant | triethylamine | 3.00 mmol, 0.418 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.00 mmol, 0.213 mL | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N′-acetyl-3-(4-methoxyphenyl)-1-benzofuran-5-carbohydrazide | 613 mg, yield 94% | C(C)(=O)NNC(=O)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)OC)C1 | C18H16N2O4
